US04866064
A mixture of 23.5 g of the thus obtained 2-hexylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5one, 17.8 g of phosphorus pentachloride and 50.4 g of phosphorus oxychloride was heated to 65°~90° C. and was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in toluene. The solution was washed with a potassium carbonate aqueous solution and water respectively, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was separated by silica gel column chromatography using an ethyl acetate/toluene mixture as an eluent and 10.2 g of 7-chloro-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-hexylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5one | C(CCCCC)SC1=NN2C(=NC(=CC2=O)O)S1 | C11H15N3O2S2
reactant | phosphorus pentachloride | 17.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 50.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 10.2 g, Yield 41% | ClC=1N=C2N(C(C1)=O)N=C(S2)SCCCCCC | C11H14ClN3OS2
